US04206199
(3) Production of H-Arg-Ala-Gln-Asp-Phe-Val-Gln-Trp-Leu-Met-Asn-Thr-OH
In 2.5 ml of 5% thioglycolic acid-50% aqueous acetic acid was dissolved 25 mg of H-Arg-Ala-Gln-Asp-Phe-Val-Gln-Trp-Leu-Met(O)-Asn-Thr-OH and reduction was carried out at 45° C. for 24 hours. The reaction mixture was run onto a column (3.4×57 cm) of Sephadex LH-20 and elution was carried out with 30% aqueous acetic acid. The fractions from 200 ml to 240 ml were pooled and lyophilized. Yield 20 mg; Rf3 0.62 (Avicel®); amino acid analysis: Trp 0.74(1); Arg 1.13(1); Asp 2.08(2); Thr 0.95(1); Glu 2.03(2); Ala 1.00(1); Val 0.98(1); Met 0.93(1); Leu 0.99(1); Phe 0.98(1) (peptide content 79%)

reactant | H-Arg-Ala-Gln-Asp-Phe-Val-Gln-Trp-Leu-Met(O)-Asn-Thr-OH | 25 mg | N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCS(=O)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)O | C67H101N19O20S
solvent | thioglycolic acid | 2.5 ml | C(CS)(=O)O | C2H4O2S
product | H-Arg-Ala-Gln-Asp-Phe-Val-Gln-Trp-Leu-Met-Asn-Thr-OH | N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)O | C67H101N19O19S
